US08207167B2
2,4-Difluorobiphenyl (21.2 g, 111 mmol) was dissolved in chloroform (120 mL) and chlorosulfonic acid (12.5 mL, 188 mmol) was added dropwise. The reagents were stirred overnight at room temperature. The reaction was concentrated in vacuo and the residue was taken up into EtOAc (100 mL) and washed with water (3×25 mL). The organics were shaken with brine, whereupon a flocculent solid formed. This was filtered and washed with EtOAc and dried to give 2′,4′-difluorobiphenyl sulfonic acid as an off-white solid (12.1 g).

reactant | 2,4-Difluorobiphenyl | 111 mmol, 21.2 g | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
reactant | chlorosulfonic acid | 188 mmol, 12.5 mL | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | 2′,4′-difluorobiphenyl sulfonic acid | 12.1 g | FC1=C(C=CC(=C1)F)C=1C(=CC=CC1)S(=O)(=O)O | C12H8F2O3S
